US09304126B2
11-Chlorodibenzo[b,f][1,4]thiazepine
A solution of dibenzo[b,f][1,4]thiazepin-11(10H)-one, prepared as described in the previous step, (14.6 g, 64 mmol) in phosphorus oxychloride (20 mL) was heated to reflux for 2 hours. The mixture was concentrated to provide the crude product which was used directly without further purification. ESI-MS (M+1): 246 calc. for C13H8ClNS 245.

reactant | dibenzo[b,f][1,4]thiazepin-11(10H)-one | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=O | C13H9NOS
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 11-Chlorodibenzo[b,f][1,4]thiazepine | ClC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H8ClNS
